US05220003
reducing 5,5,-dimethoxypent-2-enal with diisobutylaluminum hydride to form 5,5-dimethoxypent-2-en-1-ol;

reactant | 5,5,-dimethoxypent-2-enal | COC(CC=CC=O)OC | C7H12O3
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
product | 5,5-dimethoxypent-2-en-1-ol | COC(CC=CCO)OC | C7H14O3
